data/rdb19/train.csv
rxn,smiles,ea
3977,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([O:7][C:26]([C:25]([C:24]([H:34])([H:35])[H:36])([H:37])[H:38])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([O:7][C:26]([C:25]([C:24]([H:34])([H:35])[H:36])[H:37])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])([O:8][C:9]([H:21])([H:22])[H:23])[H:38])([H:13])[H:14])([H:10])([H:11])[H:12],26.12190704292152
4381,[C:16]([C:17]([C:18]([H:19])([H:20])[H:27])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[N:21]([C:22](=[O:23])[H:29])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])[H:10].[H:9][H:27],49.32521286973497
3229,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[H:11][C:23]([C:22]([C:21]([H:31])([H:32])[H:33])([H:34])[H:35])([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40],27.95068134198664
5222,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:26]([N:25]([C:23]([C:22]([C:21]([H:28])([H:29])[H:30])([H:31])[H:32])([C:24]([H:34])([H:35])[H:36])[H:33])[H:37])([O:27])[H:38])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14],25.329076293681283
1658,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20][c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([H:5])[H:34])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],25.2333237825078
4212,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])[H:27])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[H:28],87.31513526366325
4297,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][H:26])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],48.66075194126461
2857,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16]([O:17])[H:18]>>[C:1]([H:8])([H:9])([H:10])[O:17][O:16][H:18].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],65.4249584642821
4674,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])[H:12])([H:8])([H:9])[H:10].[H:11][O:19][C:18]([C:17]([H:23])([H:24])[H:25])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],43.6693009645096
4389,[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[O:13][H:14]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[O:13][H:14],73.91521131544141
4718,[C:1]([H:2])([H:3])[H:4].[C:5]([O:6][C:7](=[C:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([H:2])([H:3])([H:4])[C:8]([C:7]([O:6][C:5]([H:9])([H:10])[H:11])[H:12])([H:13])[H:14],16.302407937735552
